US07553969B1
(2) Synthesis of 2-(3-t-butyl-4-hydroxyphenyl)-1-(1,3,4-oxadiazol-2-yl)ethylamine
To a solution of 2-(3-t-butyl-4-hydroxyphenyl)-1-(1,3,4-oxadiazol-2-yl)ethylcarbamic acid benzyl ester (1.25 g, 3.16 mmol) in methanol (30 ml), 10% palladium carbon (130 mg) was added and stirred in a hydrogen atmosphere at room temperature for 1 day. The reaction mixture was filtered and the filtrate was concentrated under reduced pressure; the thus obtained residue was subjected to silica gel column chromatography (developing solvent: chloroform:methanol:aqueous ammonia=100:10:1), giving the titled compound (0.80 g, 97%).

reactant | 2-(3-t-butyl-4-hydroxyphenyl)-1-(1,3,4-oxadiazol-2-yl)ethylcarbamic acid benzyl ester | 3.16 mmol, 1.25 g | C(C1=CC=CC=C1)OC(NC(CC1=CC(=C(C=C1)O)C(C)(C)C)C=1OC=NN1)=O | C22H25N3O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 30 ml | CO | CH4O
catalyst | palladium carbon | 130 mg | [C].[Pd]
product | 2-(3-t-butyl-4-hydroxyphenyl)-1-(1,3,4-oxadiazol-2-yl)ethylamine | 0.80 g, 97% | C(C)(C)(C)C=1C=C(C=CC1O)CC(C=1OC=NN1)N | C14H19N3O2
